US09084794B2
a) 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-N-methoxyacetamide
A solution of 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetic acid (0.453 mmol) in dichloromethane (1 mL) was treated with N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.680 mmol) and 4-(dimethylamino)pyridine (2.266 mmol) at room temperature. This mixture was stirred for 10 min at which point O-methylhydroxylamine hydrochloride (0.906 mmol) was added. The reaction vessel was sealed and the mixture was stirred at room temperature for 18 h and at 45° C. for 24 h. The reaction was then cooled to room temperature and was treated with pyridine (0.5 mL). The reaction vessel was resealed and stirred overnight in an oil bath at 45° C. At this point the reaction was cooled to room temperature and treated with additional portions of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.680 mmol) and O-methylhydroxylamine hydrochloride (0.906 mmol). The reaction vessel was resealed and stirred in an oil bath at 45° C. for 2 h. The reaction mixture was then concentrated to dryness in vacuo. The resulting orange residue was dissolved in dichloromethane (10 mL) and was concentrated in vacuo. Purification of the residue by reverse phase HPLC (10-40% acetonitrile/water with 0.1% NH4OH) afforded the title compound as a clear oily solid (89 mg, 38% yield). MS(ES)+ m/e 470.1/472.1 [M+H]+ (bromide isotope pattern).

reactant | 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetic acid | 0.453 mmol | BrC1=CC(=C(C=C1)C(C(=O)O)N1CCC2(CN(C(CO2)=O)C2CC2)CC1)F | C19H22BrFN2O4
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.680 mmol | Cl.CN(CCCN=C=NCC)C
reactant | O-methylhydroxylamine hydrochloride | 0.906 mmol | Cl.CON
reactant | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.680 mmol | Cl.CN(CCCN=C=NCC)C
reactant | O-methylhydroxylamine hydrochloride | 0.906 mmol | Cl.CON
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 2.266 mmol | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-N-methoxyacetamide | 89 mg, 38% yield | BrC1=CC(=C(C=C1)C(C(=O)NOC)N1CCC2(CN(C(CO2)=O)C2CC2)CC1)F | C20H25BrFN3O4
